US06699992B2
34.7 g of anhydrous K2CO3 (0.35 mol) was added to a solution of 64.2 g of ethyl 2-(3-cyano-2,4-dichloro-5-fluorobenzoyl)-3-cyclopropylaminoacrylate (0.173 mol) in 220 ml of DMF. The reacting mixture was stirred at 40-45° C. for 2.5 hours, and the reaction was monitored by TLC. The reactant was then poured into 800 ml of ice-water, filtered, washed with water (100 ml×2), and dried. The resultant solid was dissolved in 120 ml of 95% ethanol and then refluxed for 15 minutes, cooled, filtered and dried to afford 53.2 g of ethyl 8-cyano-1-cyclopropyl-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate (0.159 mol) as a white solid, mp 196-199° C., in 90.1% yield.

reactant | K2CO3 | 0.35 mol, 34.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-(3-cyano-2,4-dichloro-5-fluorobenzoyl)-3-cyclopropylaminoacrylate | 0.173 mol, 64.2 g | C(#N)C=1C(=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C1Cl)F)Cl | C16H13Cl2FN2O3
solvent | DMF | 220 ml | CN(C)C=O | C3H7NO
product | ethyl 8-cyano-1-cyclopropyl-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.159 mol, 53.2 g, 90.1% yield | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)F)Cl | C16H12ClFN2O3
